US05656752
210 g (1 mol) of 1,4-dihydroxy-2,3-dicyanonaphthalene, 1 l of DMF and 339 g (2.2 mol) of diethyl sulfate were introduced at room temperature as the initial charge. 304 g (2.2 mol) of potassium carbonate were added with care. The batch was gradually heated to 100° C. and stirred at 100° C. for 6 h. It was then poured onto water and the resulting precipitate was washed with water and dried to leave 231 g of 1,4-diethoxy-2,3-dicyanonaphthalene (theory: 87% ; melting point: 167°-169° C.).

reactant | 1,4-dihydroxy-2,3-dicyanonaphthalene | 1 mol, 210 g | OC1=C(C(=C(C2=CC=CC=C12)O)C#N)C#N | C12H6N2O2
reactant | diethyl sulfate | 2.2 mol, 339 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | potassium carbonate | 2.2 mol, 304 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 1 l | CN(C)C=O | C3H7NO
product | 1,4-diethoxy-2,3-dicyanonaphthalene | 231 g, 87% | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C#N)C#N | C16H14N2O2
